US07943607B2
3-[(1-Methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide
DMF (2 drops) was added to a solution of 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid (40.0 g, 0.14 mol) and oxalyl chloride (14.6 mL, 0.17 mol) in DCM (700 mL). The mixture was stirred at ambient temperature for 4 hours and the DCM and excess oxalyl chloride were evaporated in vacuo. The residual acid chloride was dissolved in DCM (300 mL) and added dropwise to 1-methyl-3-aminopyrazole (14.25 g, 0.147 mol) and triethylamine (41 mL, 0.29 mol) in DCM (300 mL), at 0° C. Stirred at ambient temperature for 24 hours. The DCM was evaporated in vacuo, and the residue partitioned between ethyl acetate (400 mL) and 1N hydrochloric acid (200 mL). The ethyl acetate layer was washed sequentially with saturated aqueous sodium hydrogen carbonate (200 mL) and brine (100 mL), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica, eluting with a gradient of 50% ethyl acetate in isohexane, to give the desired compound (51 g). 1H NMR δ (CDCl3): 1.30 (d, 6H), 3.61 (s, 3H), 4.50 (sept, 1H), 5.01 (s, 2H), 6.66 (m, 1H), 6.88 (m, 1H), 7.00 (m, 1H), 7.06 (m, 1H), 7.24 (m, 1H), 7.39 (m, 5H), 9.50 (s, 1H). m/z 366 (M+H)+

reactant | 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid | 0.14 mol, 40.0 g | CC(C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C17H18O4
reactant | oxalyl chloride | 0.17 mol, 14.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-3-aminopyrazole | 0.147 mol, 14.25 g | CN1N=C(C=C1)N | C4H7N3
reactant | triethylamine | 0.29 mol, 41 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 700 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-[(1-Methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 51 g | CC(C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1 | C21H23N3O3
